US06960601B2
In a 20-mL screw-cap vial, 182 mg (0.5 mmol) 2-(2,4-dichlorophenyl)-1-(4-methoxyphenyl)-1H-imidazole-4-carboxylic acid, 145 mg (0.55 mmol) TFFH, and 5.0 equiv. PS-DIEA (loading level: 3.50 mmol/g, 716 mg, 2.5 mmol) were heated in 10 mL 1,2-dichloroethane at 35° C. overnight. The formation of acyl fluoride was monitored by LC-MS. To the mixture, 1.1 equiv. (84 mg, 0.55 mmol) trans-2-aminocyclohexanol hydrochloride was added and the reaction continued overnight. The mixture was filtered through a filter tube (polypropylene frit), and the filtrate was evaporated under reduced pressure. The crude product was redissolved in 1 mL MeOH and purified by preparative HPLC to give 53 mg of 2-(2,4-dichlorophenyl)-N-(trans-2-hydroxycyclohexyl)-1-(4-methoxyphenyl)-1H-imidazole-4-carboxamide (amber oil, 23% yield). 1H NMR (400 MHz, CD2Cl2) δ 7.90 (s, 1 H), 7.30-7.50 (m, 4 H), 7.10 (d, 2 H), 6.90 (d, 2 H), 3.85 (s, 3 H), 3.80 (m, 1 H), 3.50 (m, 1 H), 3.25 (bs, 1 H), 2.0 (m, 2 H), 1.75 (m, 2 H), 1.30-1.50 (m, 4 H); LC-MS m/z 460.2 (MH+), retention time 3.31 min (method 2).

reactant | 2-(2,4-dichlorophenyl)-1-(4-methoxyphenyl)-1H-imidazole-4-carboxylic acid | 0.5 mmol, 182 mg | ClC1=C(C=CC(=C1)Cl)C=1N(C=C(N1)C(=O)O)C1=CC=C(C=C1)OC | C17H12Cl2N2O3
reactant | TFFH | 0.55 mmol, 145 mg | CN(C)C(=[N+](C)C)F.F[P-](F)(F)(F)(F)F
reactant | DIEA | 2.5 mmol, 716 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | trans-2-aminocyclohexanol hydrochloride | 0.55 mmol, 84 mg, 1.1 equiv. | Cl.N[C@H]1[C@@H](CCCC1)O
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
product | 2-(2,4-dichlorophenyl)-N-(trans-2-hydroxycyclohexyl)-1-(4-methoxyphenyl)-1H-imidazole-4-carboxamide | 53 mg, 23% yield | ClC1=C(C=CC(=C1)Cl)C=1N(C=C(N1)C(=O)N[C@H]1[C@@H](CCCC1)O)C1=CC=C(C=C1)OC | C23H23Cl2N3O3
